US05627182
5(S)-Amino-4(S)-hydroxy-2(S),7(S)-diisopropyl-8-[4-methoxy-3-(3methoxypropyloxy)-phenyl]-octanoic acid [N-(1-carbamoyl-1-methyl-ethyl)]-amide hydrochloride
1.5 ml of trifluoroacetic acid are added to 56 mg of 5(S)-tert-butoxycarbonylamino-4(S)-hydroxy-2(S),7(S)-diisopropyl-8-[4-methoxy-3-(3-methoxypropyloxy)-phenyl]-octanoic acid [N-(1-carbamoyl-1-methyl-ethyl)]-amide in 1.5 ml of dichloromethane at 0° C. The mixture is stirred for a further 30 minutes at 0° C. The reaction mixture is poured onto cooled 1N sodium hydroxide and the product is extracted repeatedly with dichloromethane. The organic phases are dried, and ethereal hydrochloric acid is added. Concentration by evaporation yields the title compound: Rf (dichloromethane/methanol=8:2)=0.30; HPLC Rt =11.25; FAB-MS (M+H)+ =538.

reactant | trifluoroacetic acid | 1.5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 5(S)-tert-butoxycarbonylamino-4(S)-hydroxy-2(S),7(S)-diisopropyl-8-[4-methoxy-3-(3-methoxypropyloxy)-phenyl]-octanoic acid [N-(1-carbamoyl-1-methyl-ethyl)]-amide | 56 mg | C(N)(=O)C(C)(C)NC([C@@H](C[C@@H]([C@H](C[C@H](CC1=CC(=C(C=C1)OC)OCCCOC)C(C)C)NC(=O)OC(C)(C)C)O)C(C)C)=O | C34H59N3O8
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | dichloromethane | 1.5 ml | ClCCl | CH2Cl2
product | 5(S)-Amino-4(S)-hydroxy-2(S),7(S)-diisopropyl-8-[4-methoxy-3-(3methoxypropyloxy)-phenyl]-octanoic acid [N-(1-carbamoyl-1-methyl-ethyl)]-amide hydrochloride | Cl.C(N)(=O)C(C)(C)NC([C@@H](C[C@@H]([C@H](C[C@H](CC1=CC(=C(C=C1)OC)OCCCOC)C(C)C)N)O)C(C)C)=O | InChI=1S/C29H51N3O6.ClH/c1-18(2)21(14-20-10-11-25(37-8)26(15-20)38-13-9-12-36-7)16-23(30)24(33)17-22(19(3)4)27(34)32-29(5,6)28(31)35;/h10-11,15,18-19,21-24,33H,9,12-14,16-17,30H2,1-8H3,(H2,31,35)(H,32,34);1H/t21-,22-,23-,24-;/m0./s1
